US07365095B2
2-Chloro-6-methoxy-2′-methylbiphenyl (15.0 g, 64.5 mmol) was heated in hydrogen bromide (33% in acetic acid, 60 mL) at 65° C. overnight. The resulting mixture was cooled to room temperature, poured in water and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue oil was further treated with potassium carbonate (10.5 g, 75.6 mmol) in methanol (100 mL) at room temperature for 2 h. The solvent was removed under reduced pressure. The residue was extracted with ethyl acetate and the organic layer was washed with water and saturated sodium chloride, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by ISCO using a solvent gradient of 10 to 40% ethyl acetate in hexanes produced 10.9 g (77%) of 6-chloro-2′-methyl-biphenyl-2-ol as a colorless oil.

reactant | 2-Chloro-6-methoxy-2′-methylbiphenyl | 64.5 mmol, 15.0 g | ClC1=C(C(=CC=C1)OC)C1=C(C=CC=C1)C | C14H13ClO
reactant | potassium carbonate | 75.6 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | hydrogen bromide | 60 mL | Br | BrH
solvent | water | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 6-chloro-2′-methyl-biphenyl-2-ol | 10.9 g, 77% | ClC=1C=CC=C(C1C1=C(C=CC=C1)C)O | C13H11ClO
